US09238667B2
Synthesis of (1S,2R)-ethyl 2-benzoylaminocyclohexane-1-carboxylate
In a 10 mL test tube were charged diacetato{(S)-2,2′-bis[bis(3,5-di-tert-butyl-4-methoxyphenyl)phosphino]-1,1′-binaphthyl}ruthenium (II) (12.9 mg), and ethyl 2-aminocyclohexene-1-carboxylate (50 mg), and the mixture was set on a pressurization apparatus. Argon substitution was performed, and dehydrated methanol for organic synthesis (2.5 ml) was injected with pressure. Thereafter, hydrogen (1 MPa) was charged in and the mixture was stirred at 25° C. for 18 hr. After completion of the reaction, the reaction mixture was analyzed by HPLC.

reactant | ethyl 2-aminocyclohexene-1-carboxylate | 50 mg | NC1=C(CCCC1)C(=O)OCC | C9H15NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
product | (1S,2R)-ethyl 2-benzoylaminocyclohexane-1-carboxylate | C(C1=CC=CC=C1)(=O)N[C@H]1[C@H](CCCC1)C(=O)OCC | C16H21NO3
